US05382584
Ethyl 4-[[[(2,6-Dimethylphenyl)amino]carbonyl]methyl]-1-piperazineacetate (XI)
Ethyl bromoacetate (12.12 g, 0.073 mol) in dry acetonitrile (30 mL) was added dropwise to a mixture of N-(2,6-dimethylphenyl)-1-piperazineacetamide dihydrochloride hydrate (18.0 g, 0.073 mol) and potassium carbonate (18.0 g, 0.13 mol) in dry acetonitrile (200 mL). The mixture was stirred at room temperature for 16 h before it was filtered and evaporated. The residue was partitioned between ethyl acetate and water and the organic phase was separated, washed with brine dried and concentrated. There was isolated 21 g (86%) of the XI compound as a colorless oil which was used without further purification; 1H NMR (300 MHz, DMSO-d6) δ 9.16 (s, 1H), 7.06 (s, 3H), 4.11 (q, J=3.6 Hz, 2H), 3.22 (s, 2H), 3.13 (s, 2H), 2.68 (br s, 8H), 2.14 (s, 6H), 1.19 (t, J=7.0 Hz, 3H); 13C NMR (75 MHz, DMSO-d6) δ 171.65 (0), 169.63 (0), 166.02 (0), 136.72 (0), 136.67 (0), 129.36 (+), 128.09 (+), 63.07 (-), 61.54 (-), 60.24 (-), 54.67 (-), 53.59 (-), 19.7 (+), 15.88 (+); IR (KBr) 3242, 3020, 2988, 2964, 2936, 2914, 2878, 2824, 1744, 1662, 1530, 1478, 1466, 1444, 1428, 1390, 1380, 1306, 1278, 1224, 1198, 1166, 1136, 1042, 1020, 836, 762, 718 cm-1 ; MS (DCI) m/e 334.

reactant | Ethyl bromoacetate | 0.073 mol, 12.12 g | BrCC(=O)OCC | C4H7BrO2
reactant | N-(2,6-dimethylphenyl)-1-piperazineacetamide dihydrochloride hydrate | 0.073 mol, 18.0 g | O.Cl.Cl.CC1=C(C(=CC=C1)C)NC(CN1CCNCC1)=O
reactant | potassium carbonate | 0.13 mol, 18.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | Ethyl 4-[[[(2,6-Dimethylphenyl)amino]carbonyl]methyl]-1-piperazineacetate | 21 g, 86% | CC1=C(C(=CC=C1)C)NC(=O)CN1CCN(CC1)CC(=O)OCC | C18H27N3O3
